US05095016
17.25 g of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-[(N-cyano-acetimidoyl)amino]-2H-benzo[b]pyran-3-ol was dissolved in 130 ml of pyridine, and 9.0 of methanesulfonyl chloride was added under stirring and cooling with ice. The mixture was reacted for 4 hours. The reaction mixture was poured into ice water, whereby a solid precipitated. This solid was collected by filtration and recrystallized from ethanol to obtain 28.5 g of 6-cyano-3,4-dihydro-3-methanesulfonyloxy-2,2-dimethyl-trans-4-[(N-cyano-acetimidoyl)amino]-2H-benzo[b]pyran in the form of crystals.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-[(N-cyano-acetimidoyl)amino]-2H-benzo[b]pyran-3-ol | 17.25 g | C(#N)C1=CC2=C(OC([C@H]([C@@H]2NC(C)=NC#N)O)(C)C)C=C1 | C15H16N4O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
product | 6-cyano-3,4-dihydro-3-methanesulfonyloxy-2,2-dimethyl-trans-4-[(N-cyano-acetimidoyl)amino]-2H-benzo[b]pyran | 28.5 g | C(#N)C1=CC2=C(OC([C@H]([C@@H]2NC(C)=NC#N)OS(=O)(=O)C)(C)C)C=C1 | C16H18N4O4S
